US04440785
Sodium 2-amino-4-biphenylacetate is dissolved in dimethylformamide and the solution treated with ethyliodide. The solution is stirred at room temperature for about 3 hours, the solution added to water and the mixture extracted several times with benzene. The combined benzene extracts are washed with dilute base and water, dried over sodium sulfate, concentrated and crystallized to give ethyl-2-amino-4-biphenylacetate.

reactant | Sodium 2-amino-4-biphenylacetate | NC1=C(C=CC(=C1)CC(=O)[O-])C1=CC=CC=C1.[Na+]
reactant | ethyliodide | C(C)I | C2H5I
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl-2-amino-4-biphenylacetate | C(C)OC(CC1=CC(=C(C=C1)C1=CC=CC=C1)N)=O | C16H17NO2
